US07723345B2
6.35. Synthesis of (S)-2-Amino-3-(4-(5-(naphthalen-2-ylmethylamino)pyrazin-2-yl)phenyl)propanoic acid
5-Bromo-N-(naphthalen-2-ylmethyl)pyrazin-2-amine (0.2 g, 0.637 mmol), L-p-boronophenylalanine (0.13 g, 0.637 mmol), palladiumtriphenylphosphine dichloride (13 mg, 0.019 mmol), Na2CO3 (0.13 g, 1.27 mmol), acetonitrile (5 mls) and water (5 mls) were heated in a microwave reactor at 150° C. for 5 minutes. The mixture was concentrated, dissolved in 1.0 N HCl, washed twice with ether, concentrated, dissolved in methanol, filtered and concentrated to yield 0.12 g of the captioned compound. M+1=399; 1H NMR (CD3OD) δ 8.51 (s, 1H), 8.37 (s, 1H), 7.90 (m, 6H), 7.50 (m, 5H), 4.85 (s, 2H), 4.30 (t, 1H), 3.38 (m, 1H), 3.22 (m, 1H).

reactant | 5-Bromo-N-(naphthalen-2-ylmethyl)pyrazin-2-amine | 0.637 mmol, 0.2 g | BrC=1N=CC(=NC1)NCC1=CC2=CC=CC=C2C=C1 | C15H12BrN3
reactant | Na2CO3 | 1.27 mmol, 0.13 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | acetonitrile | 5 mls | C(C)#N | C2H3N
catalyst | palladiumtriphenylphosphine dichloride | 0.019 mmol, 13 mg | [Cl-].[Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd+2]
solvent | water | 5 mls | O | H2O
product | (S)-2-Amino-3-(4-(5-(naphthalen-2-ylmethylamino)pyrazin-2-yl)phenyl)propanoic acid | 0.12 g | N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC=C(N=C1)NCC1=CC2=CC=CC=C2C=C1 | C24H22N4O2
